US05440044
(4RS)-4-Hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-pentanoic acid
Under the conditions of example 2, 30 mg of 5-{6-[(1E)(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl-methyl)-tetrahydrofuran-2-one in 2 ml of methanol is saponified with 1 ml of 1 n sodium hydroxide solution and worked up. 20 mg of the title compound is obtained as oil.

reactant | 5-{6-[(1E)(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl-methyl)-tetrahydrofuran-2-one | 30 mg | OC(/C=C/C1=CC=CC(=N1)CC1CCC(O1)=O)CCCCCCCC | C21H31NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | (4RS)-4-Hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-pentanoic acid | 20 mg | OC(CCC(=O)O)CC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O | C21H33NO4
